US07314936B2
To a solution of methyl 5-(2-methoxycarbonyl-vinyl)-indole-1-carboxylic acid tert-butyl ester (4.64 g, 15.3 mmol, 1.0 eq.) in THF (87 mL) at −30° C. was added LiAlH4 (1 N in THF, 18.6 mL, 1.2 eq.) by syringe pump over 20 min and the resulting mixture was stirred and warmed to −5° C. After cooling back to −30° C., the reaction was then quenched by slow addition of acetone (10 mL) keeping temperature below −15° C., poured into Rochelle salt at 0° C., stirred for 1 h and the separated aqueous layer was extracted with EtOAc. The combunede organic phase was dried over sodium sulfate, filtered and concentrated. The residue was purification by column chromatography (methylene chloride to 2% acetone/methylene chloride) to give 5-(3-hydroxy-propenyl)-indole-1-carboxylic acid tert-butyl ester (2.89 g, 70%) or or similarly 6-(3-hydroxy-propenyl)-indole-1-carboxylic acid tert-butyl ester.

reactant | methyl 5-(2-methoxycarbonyl-vinyl)-indole-1-carboxylic acid tert-butyl ester | 15.3 mmol, 4.64 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)C=CC(=O)OC)C | C18H21NO4
reactant | LiAlH4 | 1 N, 18.6 mL, 1.2 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 87 mL | C1CCOC1 | C4H8O
product | 5-(3-hydroxy-propenyl)-indole-1-carboxylic acid tert-butyl ester | 2.89 g, 70% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=CCO | C16H19NO3
